US09353107B2
Step-ii: 2-(4-(4-bromo-2-nitrophenyl)piperazin-1-yl)acetamide
Using the same reaction conditions as described in step-i of example-82A, 1-(4-bromo-2-nitrophenyl)piperazine hydrochloride (1.2 g 3.69 mmol) was alkylated using 2-chloroacetamide (517 mg, 5.53 mmol) and sodium carbonate (930 mg, 11.07 mmol) in toluene/ethanol (15/15 mL) to get 510 mg (40.3% yield) of the titled compound. MS: m/z=343.0 (M+1).

reactant | 1-(4-bromo-2-nitrophenyl)piperazine hydrochloride | 3.69 mmol, 1.2 g | Cl.BrC1=CC(=C(C=C1)N1CCNCC1)[N+](=O)[O-]
reactant | 2-chloroacetamide | 5.53 mmol, 517 mg | ClCC(=O)N | C2H4ClNO
reactant | sodium carbonate | 11.07 mmol, 930 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 15 mL | C1(=CC=CC=C1)C.C(C)O
product | 2-(4-(4-bromo-2-nitrophenyl)piperazin-1-yl)acetamide | 510 mg, 40.3% yield | BrC1=CC(=C(C=C1)N1CCN(CC1)CC(=O)N)[N+](=O)[O-] | C12H15BrN4O3
